US07759350B2
Synthesis of 4-Chloro-N-(4-methylphenyl)-6-(methylthio)-2-[4-(methylthio) phenyl]pyrimidine-5-carboxamide
4-Hydroxy-N-(4-methylphenyl)-6-(methylthio)-2-[4-(methylthio)phenyl] pyrimidine-5-carboxamide (0.5 g, 1.25 mmol) was refluxed in phosphorus oxychloride (10 ml) for 3 hours and subsequently cooled to room temperature. The reaction mixture was poured onto ice-water mixture, neutralised with saturated sodium bicarbonate solution and the solid thus separated was extracted with ethylacetate. The organic layer was washed with water; dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford the title compound, 0.3 g, yield 57%.

reactant | 4-Hydroxy-N-(4-methylphenyl)-6-(methylthio)-2-[4-(methylthio)phenyl] pyrimidine-5-carboxamide | 1.25 mmol, 0.5 g | OC1=NC(=NC(=C1C(=O)NC1=CC=C(C=C1)C)SC)C1=CC=C(C=C1)SC | C20H19N3O2S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-N-(4-methylphenyl)-6-(methylthio)-2-[4-(methylthio) phenyl]pyrimidine-5-carboxamide | yield 57% | ClC1=NC(=NC(=C1C(=O)NC1=CC=C(C=C1)C)SC)C1=CC=C(C=C1)SC | C20H18ClN3OS2
